US09328118B2
After tert-butyl 4-{2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-(trifluoromethyl)phenoxy]ethyl}piperidine-1-carboxylate (266 mg), Na2CO3 (169 mg), and tetrakis(triphenylphosphine)palladium (0) (31 mg) were added to a mixture of 2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine (100 mg), dioxane (1.6 mL), and water (0.6 mL), the mixture was stirred at 150° C. for 2 hours under microwave irradiation, and cooled to room temperature. After water and EtOAc were added to the reaction mixture, the mixture was stirred, filtered, and washed with EtOAc, whereby tert-butyl 4-{2-[4-(2-chloro-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-2-(trifluoromethyl)phenoxy]ethyl}piperidine-1-carboxylate (121 mg) was obtained as a brown solid.

reactant | tert-butyl 4-{2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-(trifluoromethyl)phenoxy]ethyl}piperidine-1-carboxylate | 266 mg | CC1(OB(OC1(C)C)C1=CC(=C(OCCC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)C(F)(F)F)C | C25H37BF3NO5
reactant | Na2CO3 | 169 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine | 100 mg | ClC=1N=C(C2=C(N1)NC=C2)Cl | C6H3Cl2N3
reactant | dioxane | 1.6 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 31 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | water | 0.6 mL | O | H2O
product | tert-butyl 4-{2-[4-(2-chloro-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-2-(trifluoromethyl)phenoxy]ethyl}piperidine-1-carboxylate | 121 mg | ClC=1N=C(C2=C(N1)NC=C2)C2=CC(=C(OCCC1CCN(CC1)C(=O)OC(C)(C)C)C=C2)C(F)(F)F | C25H28ClF3N4O3
